US07745641B2
In a similar manner to Step 1 of Example 16, 2,5-dichloropyridine-3-carbonylchloride (669 mg, 3.19 mmol) was dissolved in dichloromethane (13 mL), and the solution was treated with cumylamine (0.505 mL, 3.51 mmol), triethylamine (0.667 mL, 4.79 mmol) and DMAP (39.0 mg, 0.319 mmol), followed by purification by slurry using diisopropylether/hexane to obtain 2,5-dichloro-N-(1-methyl-1-phenylethyl)nicotinamide (926 mg, yield 94%).

reactant | 2,5-dichloropyridine-3-carbonylchloride | 3.19 mmol, 669 mg | ClC1=NC=C(C=C1C(=O)Cl)Cl | C6H2Cl3NO
reactant | cumylamine | 3.51 mmol, 0.505 mL | C(C)(C)(C1=CC=CC=C1)N | C9H13N
reactant | triethylamine | 4.79 mmol, 0.667 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 13 mL | ClCCl | CH2Cl2
catalyst | DMAP | 0.319 mmol, 39.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2,5-dichloro-N-(1-methyl-1-phenylethyl)nicotinamide | 926 mg, yield 94% | ClC1=C(C(=O)NC(C)(C2=CC=CC=C2)C)C=C(C=N1)Cl | C15H14Cl2N2O
